* Subcircuit LM7810
.subckt LM7810 net-_q16-pad1_ net-_d1-pad1_ net-_q14-pad3_ 
.title kicad schematic
.include NPN.lib
.include D.lib
.include PNP.lib
r1 net-_d1-pad2_ net-_q16-pad1_ 100
r2 net-_q1-pad1_ net-_q16-pad1_ 500
r7 net-_q5-pad3_ net-_q16-pad1_ 100
r12 net-_q10-pad3_ net-_q16-pad1_ 100
q5 net-_q10-pad2_ net-_q10-pad2_ net-_q5-pad3_ Q2N2907A
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2907A
q9 net-_q14-pad1_ net-_q9-pad2_ net-_d1-pad1_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q11-pad3_ Q2N2222
r10 net-_q7-pad2_ net-_q11-pad3_ 6k
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
q3 net-_q3-pad1_ net-_q3-pad2_ net-_d1-pad1_ Q2N2222
r5 net-_d1-pad1_ net-_q9-pad2_ 500
q1 net-_q1-pad1_ net-_d1-pad2_ net-_q1-pad3_ Q2N2222
r3 net-_q2-pad2_ net-_q1-pad3_ 3.3k
r4 net-_q9-pad2_ net-_q2-pad2_ 2.7k
q6 net-_q10-pad2_ net-_q11-pad1_ net-_q6-pad3_ Q2N2222
q2 net-_q10-pad2_ net-_q2-pad2_ net-_q2-pad3_ Q2N2222
q7 net-_q6-pad3_ net-_q7-pad2_ net-_q2-pad3_ Q2N2222
r6 net-_q3-pad1_ net-_q2-pad3_ 1.8k
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
q16 net-_q16-pad1_ net-_q14-pad1_ net-_q16-pad3_ Q2N2222
r15 net-_d2-pad2_ net-_q16-pad1_ 10k
q14 net-_q14-pad1_ net-_d2-pad1_ net-_q14-pad3_ Q2N2222
r16 net-_q14-pad3_ net-_q16-pad3_ 200
r19 net-_d1-pad1_ net-_q11-pad2_ 5k
r18 net-_q11-pad2_ net-_q14-pad3_ 0.25k
r17 net-_d2-pad1_ net-_q17-pad3_ 240
r20 net-_q14-pad3_ net-_q17-pad3_ 0.2
q17 net-_q16-pad1_ net-_q16-pad3_ net-_q17-pad3_ Q2N2222
r13 net-_d1-pad1_ net-_q12-pad3_ 5k
q13 net-_c1-pad2_ net-_q12-pad3_ net-_d1-pad1_ Q2N2222
q15 net-_q10-pad1_ net-_q12-pad1_ net-_d1-pad1_ Q2N2222
q12 net-_q12-pad1_ net-_c1-pad1_ net-_q12-pad3_ Q2N2222
r9 net-_d1-pad1_ net-_q8-pad3_ 1k
q8 net-_c1-pad1_ net-_q3-pad2_ net-_q8-pad3_ Q2N2222
r8 net-_d1-pad1_ net-_q3-pad2_ 6k
r14 net-_q12-pad1_ net-_q10-pad1_ 2k
r11 net-_c1-pad1_ net-_q7-pad2_ 28k
q4 net-_q2-pad3_ net-_q3-pad1_ net-_q3-pad2_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 30p
* Control Statements

.ends LM7810